US05972965
A mixture of 3-[3-(4,5-diphenyloxazol-2-yl)-3-hydroxy-2-(2-hydroxyethyl)propyl]-1-methoxybenzene (3.3 g) and methanesulfonyl chloride (1.8 ml) and triethylamine (4.3 ml) in THF (50 ml) was stirred at room temperature for 1 hour. The solution was diluted with ethyl acetate and washed with sat. NaHCO3 and brine, dried over MgSO4. and evaporated. The residue was dissolved in benzylamine (10 ml). After being stirred for 2 hours at 80° C., the mixture was partitioned between ether and water. The organic layer was washed with water and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to afford 1-benzyl-2-(4,5-diphenyloxazol-2-yl)-3-(3-methoxybenzyl)pyrrolidine (1.5 g). MS (m/z): 501 (M+ +1) IR (Neat): 1600 cm-1NMR (CDCl3, δ): 2.0-3.2 (7H, m), 3.60 (3H, s), 3.5-4.0 (3H, m), 6.5-6.8 (3H, m), 7.0-7.8 (16H, m)

reactant | 3-[3-(4,5-diphenyloxazol-2-yl)-3-hydroxy-2-(2-hydroxyethyl)propyl]-1-methoxybenzene | 3.3 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C(C(CC=1C=C(C=CC1)OC)CCO)O | C27H27NO4
reactant | methanesulfonyl chloride | 1.8 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-2-(4,5-diphenyloxazol-2-yl)-3-(3-methoxybenzyl)pyrrolidine | 1.5 g | C(C1=CC=CC=C1)N1C(C(CC1)CC1=CC(=CC=C1)OC)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C34H32N2O2
